US06143762
1-(4-Bromophenyl)-2-pyrrolidinone
To a solution of 4-bromoaniline (10 g, 58 mmol) in dry THF (150 ml), under argon was added triethylamine (6 g, 59 mmol) and 4-chlorobutyrylchloride (8.2 g 58 mmol) at 5° C. The mixture was stirred at 5° C. for 40 mins and potassium tert-butoxide (16 g, 142 mmol) added in one portion. After 10 mins the mixture was warmed to 25° C. and stirred for 4 hours, then left to stand overnight. Water (10 ml) was added and the mixture stirred for 30 mins. The mixture was diluted with ethyl acetate (200 ml) and 3% Na2CO3 (aq) (120 ml). The aqueous layer was reextracted with ethyl acetate (100 ml) and the combined extracts dried over Na2SO4. The solvent was evaporated in vacuo to give a brown solid (12 g). Chromatography on silica gel (~200 g) using 30-60% ethyl acetate/hexane gradient elution gave the title compound as a yellow crystalline solid (10.24 g, 74%).

reactant | 4-bromoaniline | 58 mmol, 10 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | triethylamine | 59 mmol, 6 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutyrylchloride | 58 mmol, 8.2 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | potassium tert-butoxide | 142 mmol, 16 g | CC(C)([O-])C.[K+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | Na2CO3 | 120 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 10 ml | O | H2O
product | 1-(4-Bromophenyl)-2-pyrrolidinone | 12 g | BrC1=CC=C(C=C1)N1C(CCC1)=O | C10H10BrNO
